US05723497
Preparation of 1-(2-hydroxyethylamino)-3-(2-hydroxyoctadecyloxy)-2-propanol (Ia-12):
A 300-ml flask equipped with a stirrer, reflux tube and dropping funnel was charged with 40.5 g (0.66 mol) of ethanolamine and 8.6 g of ethanol. While heating and stirring the mixture at 80° C., an ethanol solution of 4.08 g (11.8 mmol) of 2-hydroxyoctadecyl glycidyl ether was added dropwise over 3 hours. After the resultant mixture was heated and stirred further for 3 hours, it was poured into 500 ml of ice water to collect crystals formed by filtration. The thus-obtained crystals were recrystallized again from n-hexane, thereby obtaining 3.58 g (yield: 75%) of the title compound (Ia-12).

reactant | ethanolamine | 0.66 mol, 40.5 g | C(O)CN | C2H7NO
reactant | 2-hydroxyoctadecyl glycidyl ether | 11.8 mmol, 4.08 g | C(C1CO1)OCC(CCCCCCCCCCCCCCCC)O | C21H42O3
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 8.6 g | C(C)O | C2H6O
product | 1-(2-hydroxyethylamino)-3-(2-hydroxyoctadecyloxy)-2-propanol | 3.58 g, yield: 75% | OCCNCC(COCC(CCCCCCCCCCCCCCCC)O)O | C23H49NO4
